US08048909B2
tert-Butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate
To a solution (92 mL) of 5-phenyl-1H-pyrrole-3-carbaldehyde (0.92 g) in methanol was added 40% methylamine solution (1.26 g) at room temperature and the mixture was stirred for 30 min. To the reaction mixture was added sodium borohydride (305 mg) at room temperature and the mixture was stirred for 10 min. Water (200 mL) was added and the mixture was further stirred for 1 hr. Saturated brine (50 mL) was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetonitrile (48 mL), and di-tert-butyl bicarbonate (1.41 g) was added dropwise at room temperature. The mixture was stirred for 1.5 hr and partitioned with water and ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→4:1) to give the title compound as colorless crystals (yield 0.99 g, 64%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 92 mL, 0.92 g | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | methylamine | 1.26 g | CN | CH5N
reactant | sodium borohydride | 305 mg | [BH4-].[Na+]
reactant | Water | 200 mL | O | H2O
reactant | methanol | CO | CH4O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | tert-Butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | yield 0.99 g, 64% | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
